US08871269B2
Pamoic Acid.
Microparticle formulations (Table 5, Q-W) were prepared by an oil-in-water emulsion/solvent extraction method. PLGA polymer (MW 24,000, 180 mg) was dissolved in EtOAc (1000 μL). Octreotide pamoate (20 or 40 mg) was dissolved in benzyl alcohol (BnOH, 1000 μL) and added to the polymer solution yielding a homogeneous organic phase. The resulting organic phase was combined with a 1% PVA aqueous phase in a ratio of 1:2 to provide an emulsion. The emulsion was collected directly into a 0.3% PVA solvent extraction solution (150 mL) and stirred for four hours to extract EtOAc. Hardened microparticles were collected by filtration, washed with water, air dried and stored at 4° C.

reactant | Octreotide pamoate | 40 mg | C[C@H]([C@H]1C(=O)N[C@@H](CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N1)CCCCN)CC2=CNC3=C2C=CC=C3)CC=4C=CC=CC4)NC(=O)[C@@H](CC=5C=CC=CC5)N)C(=O)N[C@H](CO)[C@@H](C)O)O.C=1C=CC=2C(C1)=CC(=C(C2CC3=C4C=CC=CC4=CC(=C3O)C(=O)O)O)C(=O)O
solvent | EtOAc | 1000 μL | CCOC(=O)C | C4H8O2
solvent | benzyl alcohol | 1000 μL | C(C1=CC=CC=C1)O | C7H8O
product | Pamoic Acid | C=1C=CC=2C(C1)=CC(=C(C2CC3=C4C=CC=CC4=CC(=C3O)C(=O)O)O)C(=O)O | C23H16O6
